US04489085
6 g of potassium hydroxide, dissolved in a little water, are added dropwise to 36.85 g (0.1 mole) of 1-(4'-chloro-4-biphenylyloxy)-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-one in 50 ml of dimethylsulphoxide. The mixture is subsequently stirred for a short time and 16 g (0.11 mole) of diethyl sulphate are then added dropwise. During this addition, the temperature of the reaction mixture is kept at about 40° C. and thereafter it was kept at 80° C. for 1/2 hour. It was allowed to cool, water is added and the crystalline precipitate is filtered off and recrystallised from petroleum ether. 22 g (50% of theory) of (E)-1-(4'-chloro-4-biphenylyloxy)-3,3-dimethyl-2-ethoxy-1-(imidazol-1-yl)-1-butene of melting point of 112°-113° C. are obtained.

reactant | potassium hydroxide | 6 g | [OH-].[K+]
reactant | 1-(4'-chloro-4-biphenylyloxy)-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-one | 0.1 mole, 36.85 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(C(C)(C)C)=O)N1C=NC=C1 | C21H21ClN2O2
reactant | diethyl sulphate | 0.11 mole, 16 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | water | O | H2O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | (E)-1-(4'-chloro-4-biphenylyloxy)-3,3-dimethyl-2-ethoxy-1-(imidazol-1-yl)-1-butene | 22 g, 50% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)O\C(=C(/C(C)(C)C)\OCC)\N1C=NC=C1 | C23H25ClN2O2
